US04699939
(B) Preparation of octadecyl 3-(3-cyclohexyl-4-hydroxy-5-methylphenyl)propionate
27.6 g of methyl 3-(3-cyclohexyl-4-hydroxy-5-methylphenyl)propionate and 27.1 g of octadecanol are heated, under nitrogen, to 80° C. as described in Example 2. After the addition of 0.1 g of lithium amide, the reaction mixture is heated for 10 hours at 150° C. The methanol forming is continuously distilled off. The yield is 30.2 g of crude product which is in the form of a yellowish oil and can be purified by column chromatography.

reactant | methyl 3-(3-cyclohexyl-4-hydroxy-5-methylphenyl)propionate | 27.6 g | C1(CCCCC1)C=1C=C(C=C(C1O)C)CCC(=O)OC | C17H24O3
reactant | octadecanol | 27.1 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | lithium amide | 0.1 g | [NH2-].[Li+]
product | octadecyl 3-(3-cyclohexyl-4-hydroxy-5-methylphenyl)propionate | C1(CCCCC1)C=1C=C(C=C(C1O)C)CCC(=O)OCCCCCCCCCCCCCCCCCC | C34H58O3
